US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2 hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-b,b-dimethyl-D-phenylalanine
To a stirred solution of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (25.2 mg, 0.047 mmol) in DMF (2 ml) was added N-methylmorpholine (30 μl, 0.027 mmol). TBTU (18.0 mg, 0.056 mmol) was added and the mixture was stirred at 30° C. for 1 hour. β, β-dimethyl-D-phenylalanine trifluoroacetate was added and the mixture was stirred at 30° C. for 1.25 hours. The formation of the ketone of the title compound was confirmed. M/z: 716.07 (M+1) and 714.05 (M−1). Water (0.5 ml) was added. Methanol (2 ml) and sodium borohydride (18.2 mg, 0.48 mmol) were added the mixture was stirred for 25 minutes. Ammonium acetate (30 mg) was added and the methanol was removed under reduced pressure. The remaining DMF-solution was purified with preparative HPLC. A gradient from 20 to 48% MeCN in 0.1M NH4OAc buffer was used as eluent. The MeCN was removed under reduced pressure and the remaining water solution was acidified to pH 1 with HCl (1M) and extracted with DCM. The organic phase was concentrated under reduced pressure and the residue was dissolved in MeCN and water. After lyophilisation, the title compound was obtained as a white solid (20.5 mg, 62%). H-NMR (400 MHz, DMSO-d6): 1.27-1.32 (m, 6H), 2.75-3.05 (m, 2H), 3.55-3.67 (m, 1H), 3.79 (dd, 1H), 4.25-4.30 (m, 0.5H), 4.40 (s, 0.5H), 4.45-4.53 (m, 3H), 4.68-4.78 (m, 1H), 4.99 (d, 0.5H), 4.05 (d, 0.5H), 6.88-6.98 (m, 2H), 7.05-7.17 (m, 5H), 7.20-7.40 (m, 10H) 7.45-7.75 (m, 1H) 8.22 (t, 1H). M/z: 718.09 (M+1) and 716.07 (M−1).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.047 mmol, 25.2 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.027 mmol, 30 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.056 mmol, 18.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | β, β-dimethyl-D-phenylalanine trifluoroacetate | FC(C(=O)O)(F)F.CC([C@@H](N)C(=O)O)(C1=CC=CC=C1)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2 hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-b,b-dimethyl-D-phenylalanine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C2=CC=CC=C2)(C)C)C(=O)O)C=C1 | C38H37F2N3O7S
